US06747023B1
4-Chloro-1-formyl-2-methoxybenzene
In methylene chloride (80 ml) was dissolved (4-chloro-2-methoxyphenyl)methanol (3.69 g). Under ice cooling, molecular sieve 4A (4.57 g), N-methylmorpholine (2.81 g) and tetra-n-propylammonium perruthenate (420 mg) were added to the resulting solution, followed by stirring at room temperature for 2.5 hours. The reaction mixture was distilled under reduced pressure. The residue was subjected to chromatography on a silica gel column (hexane:ethyl acetate=9:1), whereby the title compound (3.07 g) was obtained as pale yellow oil.

reactant | (4-chloro-2-methoxyphenyl)methanol | 3.69 g | ClC1=CC(=C(C=C1)CO)OC | C8H9ClO2
reactant | N-methylmorpholine | 2.81 g | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-propylammonium perruthenate | 420 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-Chloro-1-formyl-2-methoxybenzene | ClC1=CC(=C(C=C1)C=O)OC | C8H7ClO2
